* Demo: RC charging + pulse source
V1  vp   GND  PULSE(0 5 0 10n 10n 500u 1m)
R1  vp   n1   1k
C1  n1   GND  1u
R2  n1   n2   2k
C2  n2   GND  500n
.TRAN 5u 3m
